US08097623B2
(a) 5-Bromo-3-formylindole-2-carboxylic acid ethyl ester
Oxalyl chloride (3.43 mL, 39.9 mmol) was added with stirring to DMF (30 mL) and CH2Cl2 (80 mL) at 0° C. After 20 min at 0° C., 5-bromoindole-2-carboxylic acid ethyl ester (10 g, 37.3 mmol) in DMF (80 mL), was added. The mixture was stirred at rt for 24 h and poured into NaHCO3 (aq, sat) and extracted with CH2Cl2. The combined extracts were washed with H2O and brine, dried (Na2SO4) and concentrated. Crystallisation from EtOH gave the sub-title compound. Yield 8.9 g (81%).

reactant | Oxalyl chloride | 39.9 mmol, 3.43 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
reactant | 5-bromoindole-2-carboxylic acid ethyl ester | 37.3 mmol, 10 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-3-formylindole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C=O)Br | C12H10BrNO3
